data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_86164_0,[C:1]([O:3][C:2](=[O:6])[H:8])([O:4][H:7])=[O:5]>>[C:1]([O:4][H:7])(=[O:5])[O:6][C:2](=[O:3])[H:8],28.12580500000664
MR_246742_0,[C:1]([N:3]([N:4]([C:2]([H:14])([H:15])[H:16])[H:8])[C:5]([N:6]([H:9])[H:10])=[C:7]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](/[N:6]([H:9])[H:10])[C:7]([N:4]([C:2]([H:14])([H:15])[H:16])[H:8])([H:17])[H:18])([H:11])([H:12])[H:13],61.24462749999836
MR_150474_1,[C:1](/[C:5]([O:7][H:10])=[N:8]/[C:2]([H:13])([H:14])[H:15])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:9]\[C:3]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:1](=[C:5]([O:7][H:10])[N:8]([C:2]([H:13])([H:14])[H:15])/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:9]/[C:3]([H:16])([H:17])[H:18])([H:11])[H:12],60.25945250002451
MR_245656_2,[C:1]([C:3](=[O:5])[N:6]([C:2]([H:12])([H:13])[H:14])[H:7])([N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1](/[C:3]([O:5][C:2]([H:12])([H:13])[H:14])=[N:6]\[H:7])([N:4]([H:8])[H:9])([H:10])[H:11],71.69689499996849
MR_670514_1,[C:1]([N:5]([H:11])[H:12])([C:6](=[C:4]([C:2]([H:16])([H:17])[H:18])[C:3]([H:14])([H:15])[H:19])[H:13])([O:7][O:8][H:9])[H:10]>>[C:1](\[N:5]([H:11])[H:12])(=[C:6](\[C:4]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])[O:7][O:8][H:9])[H:13])[H:10],42.82122749996461
MR_480379_1,[C:1]([C:2]([O:5][H:8])=[O:7])(/[C:3]([N:4]([H:9])[H:10])=[N:6]\[H:11])([H:12])[H:13]>>[C:1]([C:2]([O:5][H:10])=[O:7])(/[C:3]([N:4]([H:8])[H:9])=[N:6]\[H:11])([H:12])[H:13],35.296247500022986
MR_553323_1,[C:1](/[C:2](=[C:5](/[N:4]([H:11])[H:12])[H:15])[O:7][H:8])([O:6][N:3]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[C:2]([C:5]([N:4]([H:11])[H:12])([O:6][N:3]([H:9])[H:10])[H:15])[O:7][H:8])([H:13])[H:14],40.54214749997598
MR_397868_1,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:8]([C:3](=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[O:9][H:10])[H:15])([H:16])([H:17])[H:21]>>[C:1]([C:5]1([C:2]([H:18])([H:19])[H:20])[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[C:3]([O:9][H:10])=[C:8]1[H:15])([H:16])([H:17])[H:21],44.81103000004154
MR_563518_2,[C:1]1([O:8][H:9])([H:11])[C:3]([N:2]([N:4]([H:12])[H:13])[H:10])([C:5](=[C:7]([H:17])[H:18])[H:14])[C:6]1([H:15])[H:16]>>[C:1]([N:2]([N:4]([H:12])[H:13])[H:10])([C:3]([C:5](=[C:7]([H:17])[H:18])[H:14])=[C:6]([H:15])[H:16])([O:8][H:9])[H:11],66.4378175000131
MR_343974_0,[C:1]1([O:5][C:2](=[C:3]([H:9])[H:10])[H:8])([H:7])[O:4][O:6]1>>[C:1](=[O:4])([O:6][C:3]([C:2](=[O:5])[H:8])([H:9])[H:10])[H:7],20.952852499996624
MR_125856_0,[C:1]([N:4]([C:5]([N:7]([H:10])[H:11])=[O:9])/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:6](\[C:2]([H:16])([H:17])[H:18])[C:8]([C:3]([H:19])([H:20])[H:21])([C:5]([N:7]([H:10])[H:11])=[O:9])[H:12])([H:13])([H:14])[H:15],55.19238999997668
MR_21473_1,[C:1](/[C:4](=[C:2](\[N:3]([H:7])[H:8])[C:5](=[C:6]([H:14])[H:15])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C@:4]1([H:9])[C:2]([N:3]([H:7])[H:8])=[C:5]([H:10])[C:6]1([H:14])[H:15])([H:11])([H:12])[H:13],43.88860500001627
MR_81286_2,[C:1]([C:2]([N:3]([H:8])[H:9])=[O:6])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:7]>>[C@:1]1([N:4]([H:10])[H:11])([H:7])[C:2]([N:3]([H:8])[H:9])([N:5]([H:12])[H:13])[O:6]1,63.52307999998857
MR_318438_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([O:7][H:10])[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:11])[H:12])=[O:8])[O:9]1>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:11])[H:12])=[O:8])[O:9][H:10])=[O:7],37.49751749995838
MR_325108_2,[C:1](/[C:6](=[N:8]/[C:3](=[C:2](/[N:4]([H:10])[H:11])[O:7][H:9])[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:3]([C:2]([N:4]([H:10])[H:11])=[O:7])([N:5]([H:12])[H:13])[N:8]1[H:9])([H:15])([H:16])[H:17],43.88295749999486
MR_648270_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:5]([C:6](=[N:4]/[H:11])/[H:13])\[H:12])[O:7][C:2]([H:8])([H:9])[H:10]>>[C:1]1([C:3]([H:14])([H:15])[H:16])(/[C:5](=[C:6](\[N:4]([H:10])[H:11])[H:13])[H:12])[C:2]([H:8])([H:9])[O:7]1,53.87965999997377
MR_120322_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:9][H:10])=[O:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:9])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:8][H:10],44.49727999997762
MR_457181_1,[C:1]([N:4]([H:11])[H:12])([N:5]([H:10])[H:13])([O:7][H:9])/[N:8]=[C:3](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:14])[H:15]>>[C:1](\[N:5]([H:10])[H:13])([O:7][H:9])=[N:8]\[C:3]([C:2]([H:16])([H:17])[H:18])([N:4]([H:11])[H:12])[N:6]([H:14])[H:15],45.5640299999952
MR_646189_2,[C:1]([C:2]([N:7]([C:4]([H:18])([H:19])[H:20])[O:10][H:11])([N:8]([H:13])[H:14])[H:12])([C:5]([H:21])([H:22])[H:23])([C:6]([H:24])([H:25])[H:26])[O:9][C:3]([H:15])([H:16])[H:17]>>[C:1]([C:2]([N:8]([H:13])[H:14])([O:9][C:3]([H:15])([H:16])[H:17])[H:12])([C:5]([H:21])([H:22])[H:23])([C:6]([H:24])([H:25])[H:26])[N:7]([C:4]([H:18])([H:19])[H:20])[O:10][H:11],71.23191749996536
